US07759518B2
4-Bromo-5-chloro-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)thiophene-2-sulfonamide
According to the general procedure B, 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene 1,2-diamine was reacted with 4-bromo-5-chlorothiophene-2-sulfonyl chloride to obtain the title compound. 1H NMR (300 MHz, CDCl3): δ 7.42-7.34 (m, 2H), 7.25 (br m, 3H), 7.13 (dd, J=9.0 & 17.1 Hz, 1H), 6.02 (dt, J=2.4, 6.6 & 17.4 Hz, 1H), 5.52 (br s, 1H).

reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene 1,2-diamine | FC1=CC=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N | C12H8F3IN2
reactant | 4-bromo-5-chlorothiophene-2-sulfonyl chloride | BrC=1C=C(SC1Cl)S(=O)(=O)Cl | C4HBrCl2O2S2
product | 4-Bromo-5-chloro-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)thiophene-2-sulfonamide | BrC=1C=C(SC1Cl)S(=O)(=O)NC1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F | C16H8BrClF3IN2O2S2
